US08067448B2
2-Chloro-4-((1R,2R)-1-(5-(3,4-difluorophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
The crude material of N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-3,4-difluorobenzohydrazide (1.0 g, 2.37 mmol) was added to THF (120 mL) and stirred at room temperature. PS-BEMP (3.22 g, 7.10 mmol base) was added to the solution followed by slow addition of p-TSCl (496 mg, 2.60 mmol). The reaction mixture was stirred for 2 h and the progress of the reaction was monitored by TLC. After the completion of the reaction the BEMP reagent was filtered off and the solution concentrated to get the crude material. The crude material was chromatographed with hexanes:EtOAc (6:4) to give the product (330 mg). 1H NMR (500 MHz, acetone-d6, δ in ppm) 7.81 (m, 2H), 7.37 (d, J=9 Hz, 1H), 7.23 (m, 1H), 6.59 (d, J=9 Hz, 1H), 5.28 (d, J=8 Hz, 1H), 4.8 (m, 1H), 4.39 (m, 1H), 2.39 (s, 3H), 1.38 (d, J=6 Hz, 3H).

reactant | N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-3,4-difluorobenzohydrazide | 2.37 mmol, 1.0 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC(=C(C=C1)F)F)=O)[C@@H](C)O)C | C19H17ClF2N4O3
reactant | BEMP | 7.10 mmol, 3.22 g | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2R)-1-(5-(3,4-difluorophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | 330 mg | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@@H](C)O)C=1OC(=NN1)C1=CC(=C(C=C1)F)F | C19H15ClF2N4O2
